US08614234B2
2,4-Dichloropyrdine (4.44 g, 30.0 mmol) and potassium carbonate (8.28 g, 60.0 mmol) in dimethylformamide (60 mL) was purged with nitrogen for 10 min. 4-Aminothiophenol (3.76 g, 30.0 mmol) was added and the mixture stirred under nitrogen at room temperature for 18 h. Water (300 mL) was added and the slurry stirred for 30 min. The resulting solid was filtered, washed with water and vacuum dried at room temperature. Recrystallization from ethyl acetate (35 mL), filtered hot, then cooled gave 4-(2-Chloro-pyridin-4-ylsulfanyl)-phenylamine (3.946 g, 56% yield).

reactant | 2,4-Dichloropyrdine | 30.0 mmol, 4.44 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
reactant | potassium carbonate | 60.0 mmol, 8.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Aminothiophenol | 30.0 mmol, 3.76 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | Water | 300 mL | O | H2O
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 4-(2-Chloro-pyridin-4-ylsulfanyl)-phenylamine | 3.946 g, 56% yield | ClC1=NC=CC(=C1)SC1=CC=C(C=C1)N | C11H9ClN2S
